US03957790
Preparation of 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride:
N-3,3-Diphenylpropylpiperazine in the amount of 2.8 g (0.01 mole) and 2.2 g (0.01 mole) of 3,4,5-trimethoxybenzyl chloride were dissolved in 20 ml of toluene, and heated at the refluxing temperature for 4.5 hours. After the reaction liquid was left to cool, dry hydrogen chloride gas was passed through the reaction liquid while cooling the liquid to precipitate crystals of 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride, which were recrystallized from an ethanol and ether mixed solvent to obtain 4.3 g of pure crystals (80.6% yield) with a melting point of 178°C.

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 3,4,5-trimethoxybenzyl chloride | 0.01 mole, 2.2 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 4.3 g, 80.6% yield | Cl.Cl.C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=CC=C1 | InChI=1S/C29H36N2O3.2ClH/c1-32-27-20-23(21-28(33-2)29(27)34-3)22-31-18-16-30(17-19-31)15-14-26(24-10-6-4-7-11-24)25-12-8-5-9-13-25;;/h4-13,20-21,26H,14-19,22H2,1-3H3;2*1H
